US05985873
A solution of 4-(oxo)-N-[3-[4-methyl-1-(4-phenyl-1-pipera-zinyl)cyclohexyl]phenyl]-1-piperidinecarboxamide (cis isomer) (34 mg, 0.072 mmol) in anhydrous EtOH was treated with excess NaBH4 (14 mg, 0.36 mmol) and the resulting solution was stirred at room temperature for 1 h. The reaction was quenched with excess saturated NH4Cl (aq.) then extracted with EtOAc (3×). The combined extracts were dried (Na2SO4), concentrated under reduced pressure, and triturated with 30% EtOAc/hexanes to give 4-(hydroxy)-N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)-cyclohexyl]phenyl]-1-piperidinecarboxamide (cis isomer), as a white powder. The HCl salt was prepared by adding excess saturated EtOAc/HCl solution to the free base in dry MeOH. Concentration of the homogeneous solution yielded a white solid which was washed with EtOAc. mp=144-145° C.

reactant | 4-(oxo)-N-[3-[4-methyl-1-(4-phenyl-1-pipera-zinyl)cyclohexyl]phenyl]-1-piperidinecarboxamide | 0.072 mmol, 34 mg | O=C1CCN(CC1)C(=O)NC1=CC(=CC=C1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C29H38N4O2
reactant | NaBH4 | 0.36 mmol, 14 mg | [BH4-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 4-(hydroxy)-N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)-cyclohexyl]phenyl]-1-piperidinecarboxamide | OC1CCN(CC1)C(=O)NC1=CC(=CC=C1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C29H40N4O2
